US08455475B2
tert-Butyl 9-(1H-imidazol-1-yl)-3-azaspiro[5.5]undecane-3-carboxylate
Imidazole (1.17 g, 17.3 mmol, 3.0 eq.) was added to a stirred suspension of NaH (20.16 mmol, 3.5 eq.) in DMF (10 ml) at 0° C. and the reaction mixture was allowed to stir at the same temperature for 20 min. A solution of tert-butyl 9-(methylsulfonyloxy)-3-azaspiro[5.5]undecane-3-carboxylate (2.0 g, 5.76 mmol, 1.0 eq.) in DMF (5 ml) was added to the reaction mixture at 0° C. and it was stirred at RT for 16 h. The reaction mixture was diluted with water (50 ml) and extracted with ethyl acetate (3×50 ml). The combined organic layers were washed with brine (60 ml) and dried over sodium sulfate. The solvent was evaporated under reduced pressure to obtain the crude product which was purified by column chromatography (silica gel; 3% MeOH/MC) to yield the desired product as a colorless oil. Yield: 59% (1.10 g, 3.45 mmol).

reactant | Imidazole | 17.3 mmol, 1.17 g, 3.0 eq. | N1C=NC=C1 | C3H4N2
reactant | NaH | 20.16 mmol, 3.5 eq. | [H-].[Na+]
reactant | tert-butyl 9-(methylsulfonyloxy)-3-azaspiro[5.5]undecane-3-carboxylate | 5.76 mmol, 2.0 g, 1.0 eq. | CS(=O)(=O)OC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C16H29NO5S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | tert-Butyl 9-(1H-imidazol-1-yl)-3-azaspiro[5.5]undecane-3-carboxylate | Yield: 59% | N1(C=NC=C1)C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C18H29N3O2
